2110-08-21 10:50:00 Physician Attending Progress Note
Chief Complaint: sepsis from pyelo
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   19 yo F freq UTIs, presents w/ sepsis from pyelonephritis
   24 Hour Events:
 BLOOD CULTURED - At [**2110-8-21**] 05:10 AM
 FEVER - 101.1
F - [**2110-8-21**] 06:00 AM
   In ed-->received total of 7 L IVF for hypotension, tachycardia, ctx
   W/u included:
   --abd us--increased echogenicity/size R kidney, no stones or hydro,
   possible hepatitis
   CTA, torso-, no PE, R pyelo
   In ICU: Antibx broadened to vanco/cef, additional 2L IVF
   A-line placed
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2110-8-21**] 07:55 AM
   Cefipime - [**2110-8-21**] 09:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2110-8-21**] 04:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-8-21**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 128 (102 - 148) bpm
   BP: 110/58(74) {71/35(48) - 130/66(82)} mmHg
   RR: 0 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  9,430 mL
                                                                  2,179 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,250 mL
                                                                  2,179 mL
   Blood products:
   Total out:
                                                                  3,805 mL
                                                                  2,605 mL
   Urine:
                                                                    805 mL
                                                                  2,555 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                  5,625 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, no M
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Bowel sounds present, Tender: + r cva t, + BS
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  warm
   Neurologic: Attentive appropriate
   Labs / Radiology
   10.2 g/dL
   128 K/uL
   129 mg/dL
   0.5 mg/dL
   16 mEq/L (21)
   3.6 mEq/L
   5 mg/dL
   115 mEq/L
   139 mEq/L
   31.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2110-8-20**]  04:45 PM
                             [**2110-8-21**]  05:06 AM
   WBC
   9.0
   10.3
   Hct
   33.9
   31.1
   Plt
   166
   128
   Cr
   0.7
   0.5
   Glucose
   113
   129
   Other labs: PT / PTT / INR:16.5/36.7/1.5, ALT / AST:[**10-31**], Alk Phos / T
   Bili:40/0.4, Differential-Neuts:81.3 %, Lymph:12.6 %, Mono:5.5 %,
   Eos:0.3 %, Albumin:3.5 g/dL, LDH:109 IU/L, Ca++:6.6 mg/dL, Mg++:1.2
   mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: lactate 0.9, nl lfts
   serum/blood urine tox neg (tylenol + received in ed)
   Imaging: cta/torso reviewed
   Microbiology: u/a +
   cx: bl / urine pending
   Assessment and Plan
   19 yo F with frequent UTIs presents with:
          Sepsis (hypotension, fevers, tachycardia)
          Pyelonephritis
          NAGMA
          Anemia
          Coagulopathy
   Agree with plan to treat for sepsis from pyelonephritis/UTI with
   continuing  broad empiric antbx (vanco, zosyn) adjusting per  cx data.
   No evidence of hydro/ obstruction on CT, but may benefit from urology
   f/u as outpt given frequent UTIs.  Will further clarify ? renal infarct
   seen on imaging with radiology. Hypotension has improved with
   aggressive IVFs, but remains tachy likely driven by fevers and pain.
   Making good urine and mentating normally. Will continue IVF boluses,
   changing to LR given NGMA. If decline or recurrent hypotension will
   place CVL for cvp and possibly pressors. Anemia is likely dilutional in
   setting of aggressive fluids though will monitor for hemolysis. Now
   also with coagulopathy.  Will follow cbc and check DIC panel.  Pain
   control and zofran for nausea.
   Remainder as per housestaff.
   ICU Care
   Nutrition:  NPO given nausea
transiton to clears as tolerates.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2110-8-20**] 09:34 PM
   18 Gauge - [**2110-8-20**] 09:34 PM
   Arterial Line - [**2110-8-21**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2110-08-22 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BP in the 90s, with MAP 65, Urine output greater than 300.  No fluid
   boluses given.
   - DIC labs and smear: smear not sampled, will order tomorrow AM
   - Urine culture: 10-[**Numeric Identifier 3205**] e.coli with no sensitivities
   - radiology: pyelo, but not infarct or abscess
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2110-8-21**] 08:20 PM
   Cefipime - [**2110-8-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2110-8-21**] 03:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-8-22**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.2
   HR: 97 (86 - 128) bpm
   BP: 94/56(70) {94/54(68) - 136/80(92)} mmHg
   RR: 20 (0 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,961 mL
                                                                    119 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  4,931 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  6,205 mL
                                                                  1,255 mL
   Urine:
                                                                  6,155 mL
                                                                  1,255 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,244 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, in pain, vomiting bilious
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   right side abdominal pain with CVA percussion, no L CVA tenderness
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, RUQ tenderness to palpation, non-distended, bowel
   sounds present, no rebound tenderness or guarding, no organomegaly
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   156 K/uL
   9.8 g/dL
   93 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.9 mEq/L
   4 mg/dL
   107 mEq/L
   135 mEq/L
   28.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2110-8-20**]  04:45 PM
                             [**2110-8-21**]  05:06 AM
                             [**2110-8-22**]  03:33 AM
   WBC
   9.0
   10.3
   10.7
   Hct
   33.9
   31.1
   28.9
   Plt
   166
   128
   156
   Cr
   0.7
   0.5
   0.5
   Glucose
   113
   129
   93
   Other labs: Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Hypochr: 2+ Anisocy: 1+ Poiklo: 1+ Macrocy: OCCASIONAL Microcy:
   OCCASIONAL Polychr: 1+ Ovalocy: OCCASIONAL Stipple: 1+ Tear-Dr:
   OCCASIONAL
   Source: [**Name (NI) 8043**]
   PT: 14.0
   PTT: 33.6
   INR: 1.2
                                                                [**2110-8-21**]
                                                                     7:53p
   _______________________________________________________________________
   Type:Art
   Lactate:0.6
                                                                [**2110-8-21**]
                                                                     4:22p
   _______________________________________________________________________
   Source: Line-a-line
   [image004.gif]
   [image004.gif]
   [image006.gif]
                 [image007.gif]
   3.2
                               [image004.gif]
   [image004.gif]
   [image009.gif]
                                                                [**2110-8-21**]
                                                                    11:04a
   _______________________________________________________________________
   Source: Line-a-line
   D-Dimer: 5975
   Source: Line-a-line
   Other Hematology
   FDP: 10-40
   Source: Line-a-line
   Other Hematology
   Ret-Aut: 1.0
   Source: [**Name (NI) 8044**]
   PT: 14.5
   PTT: 34.7
   INR: 1.3
   Fibrinogen: 497
   [**8-20**], [**8-21**], [**8-22**] blood cx: PND
[**8-20**] urine cx: URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
   [**8-20**] CT Abd/Pelvis:
   IMPRESSION:
   1. No evidence of pulmonary embolism.
   2. Periportal edema and pericholecystic fluid in addition to small
   amount of
   free fluid around the inferior tip of the liver. These findings could
   represent acute hepatitis in the appropriate setting. Please correlate
   clinically.
   3. Areas of hypoenhancement within the right kidney which is consistent
   with
   pyelonephritis. Please correlate with urine labs.
   [**8-20**] Abd U/S:
   IMPRESSION:
   1. Relative hepatic [**Name2 (NI) 8003**] with prominent portal triads could
   reflect hepatitis. Correlate clinically.
   2. Relative echogenicity of the right kidney with slightly increased
   size.
   Please refer to the subsequently obtained CT for further details.
   Assessment and Plan
   A/P: 19 yo F with no PMH now with urosepsis likely [**1-20**] pyelonephritis.
   #. Sepsis/pyelonephritis- pt improved with better BP with IVF, but
   still tachy and febrile.
   - d/c vanc
   - monitor BP with Aline
   - continue boluses of IVF for good hydration
   - switch to LR instead of NS bc pt developing nonanion gap metabolic
   acidosis
   - f/u urine and blood cx
   - consider Urology c/s if pt deteriorates (currently doesn
t look like
   a obstructive picture)
   - elevated INR, low plts, low Hct may be a early DIC picture -> check
   DIC panel in PM
   #. Anemia- mildly low from baseline of high 30s- likely dilutional,
   perhaps part of early DIC
   - continue to monitor
   - consider anemia workup in future
   #. Possible hepatitis according to abdominal u/s imaging: most likely
   due to fluid resuscitation rather than hepatitis.
   - continue monitoring LFTs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-8-20**] 09:34 PM
   18 Gauge - [**2110-8-20**] 09:34 PM
   Arterial Line - [**2110-8-21**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: no
   Communication: ICU consent signed:
   Code status: Full code
   Disposition: Transfer to floor.

2110-08-22 09:49:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   19 yo F with frequent UTIs presents with sepsis from pyelonephritis
   24 Hour Events:
 ARTERIAL LINE - START [**2110-8-21**] 08:03 AM
 BLOOD CULTURED - At [**2110-8-22**] 04:00 AM
 URINE CULTURE - At [**2110-8-22**] 04:00 AM
 FEVER - 101.5
F - [**2110-8-21**] 10:00 AM
   urine outpt remains excellent, MAPs maintained > 60 with improvement in
   tachycardia, efevers resolved
   urine cx pos for e coli, sensies pending
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2110-8-21**] 10:00 PM
   Vancomycin - [**2110-8-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2110-8-21**] 03:01 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-8-22**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.2
C (97.2
   HR: 106 (86 - 128) bpm
   BP: 101/60(75) {94/54(68) - 136/80(92)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,961 mL
                                                                    401 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  4,931 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  6,205 mL
                                                                  1,335 mL
   Urine:
                                                                  6,155 mL
                                                                  1,335 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,244 mL
                                                                   -934 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   156 K/uL
   93 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.9 mEq/L
   4 mg/dL
   107 mEq/L
   135 mEq/L
   28.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2110-8-20**]  04:45 PM
                             [**2110-8-21**]  05:06 AM
                             [**2110-8-22**]  03:33 AM
   WBC
   9.0
   10.3
   10.7
   Hct
   33.9
   31.1
   28.9
   Plt
   166
   128
   156
   Cr
   0.7
   0.5
   0.5
   Glucose
   113
   129
   93
   Other labs: PT / PTT / INR:14.0/33.6/1.2, ALT / AST:[**10-31**], Alk Phos / T
   Bili:40/0.4, Differential-Neuts:81.3 %, Lymph:12.6 %, Mono:5.5 %,
   Eos:0.3 %, D-dimer:5975 ng/mL, Fibrinogen:497 mg/dL, Lactic Acid:0.6
   mmol/L, Albumin:3.5 g/dL, LDH:109 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.3 mg/dL
   Fluid analysis / Other labs: peripheral smear neg for schistocytes
   lactae wnl
   Microbiology: urine cx with e coli, sensitivities pending
   bl cx ngtd
   Assessment and Plan
   19 yo F with frequent UTIs presents with:
          Sepsis (hypotension, fevers, tachycardia)-(improved)
          Pyelonephritis
          NAGMA
          Anemia
          Coagulopathy (resolved)
   Improving with stable hemodyanics.  Urine cx with e coli, sensitivies
   pending. Agree with plan to treat pyelopnephritis with empiric zosyn,
   awaiting cx sensitivies, can d/c vanco given neg bl cx and no gp
   growth.  No evidence of hydro/ obstruction or abscess on CT, but may
   benefit from urology f/u as outpt given frequent UTIs. Hypotension has
   improved with aggressive IVFs, tachycardia also in part related to pain
   and has resolved.  driven by fevers and pain.  Making good urine and
   mentating normally. Anemia may in part be dilutional in setting of
   aggressive fluids, no evidence of hemolysis. Now Will pursue anemia
   w/u.  Pain control and zofran for nausea. Can advance diet, d/c foley
   and a -line and encourage OOB to chair.  ICU prophy with sc heparin.
   Remainder as per housestaff.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2110-8-20**] 09:34 PM
   18 Gauge - [**2110-8-20**] 09:34 PM
   Arterial Line - [**2110-8-21**] 08:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for floor transfer
   Total time spent: 40 minutes

2110-08-23 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2110-8-22**] 09:45 AM
 BLOOD CULTURED - At [**2110-8-23**] 03:15 AM
 FEVER - 101.7
F - [**2110-8-23**] 03:00 AM
   - urine culture grew pan-sensitive E.coli
   - was going to be called out to floor today but pt was febrile to
   101.5, tachycardic to 120s and blood pressure was low 90s, so kept her
   on the floor for now
   - maintenance and bolus IVF were given, HR was around 105, BP 90-100s
   - Temp 101.7 at 3am, blood culture sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2110-8-22**] 08:00 AM
   Cefipime - [**2110-8-22**] 09:48 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2110-8-22**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2110-8-23**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-8-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.2
   HR: 110 (82 - 123) bpm
   BP: 94/55(64) {86/47(57) - 109/68(77)} mmHg
   RR: 28 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,844 mL
                                                                    805 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,604 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  3,795 mL
                                                                  1,300 mL
   Urine:
                                                                  3,795 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -951 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, well-appearing
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: RRR, no murmurs, rubs, gallops
   Abdomen:  soft, nontender
   Back: no CVAT bilat
   GU: foley draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   151 K/uL
   10.0 g/dL
   115 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   5 mg/dL
   107 mEq/L
   139 mEq/L
   29.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2110-8-20**]  04:45 PM
                             [**2110-8-21**]  05:06 AM
                             [**2110-8-22**]  03:33 AM
                             [**2110-8-23**]  03:19 AM
   WBC
   9.0
   10.3
   10.7
   5.1
   Hct
   33.9
   31.1
   28.9
   29.5
   Plt
   166
   128
   156
   151
   Cr
   0.7
   0.5
   0.5
   0.5
   Glucose
   113
   129
   93
   115
   Other labs: PT / PTT / INR:12.4/29.9/1.0, D-dimer:5975 ng/mL,
   Fibrinogen:579 mg/dL,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   VitB12- 513 Folate 12.3
   Fe 6  TIBC 172  Ferritin 112 TRF 132
   [**2110-8-22**] 3:33a  135/3.9/107/21/4/0.5/93 Ca 8.4 Mg 1.7 Ph 1.3
                          10.7/9.8/28.9/156 no schisto
                           PT 14.0 PTT 33.6 INR 1.2
   Color
   Straw
   Appear
   Clear
   SpecGr
   1.007
   pH
   6.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Mod
   Bld
   Tr
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   10
   RBC
   5
   WBC
   15
   Bact
   Few
   Yeast
   None
   Epi
   <1
   Other Urine Counts
   Mucous: Rare
   Micro:
   Blood cx pending
URINE CULTURE (Final [**2110-8-22**]):
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   A/P: 19 yo F with no PMH now with urosepsis likely [**1-20**] pyelonephritis.
   #. Sepsis/pyelonephritis- pt improved now with stable BPs, however
   continuing to have fever.
   - Vanc has already been dc
d, will d/c Cefepime today
   - start PO cipro according to susceptibilities
   - f/u blood cx from admission, cultures frm last night
   - consider re-imaging if there is no further clinical
   improvement/decline.
   #. Anemia- Hct continues to be low
   - Vit B12, folate nl
   - Fe low, but ferritin nl, however, ferritin being an acute phase
   reactant could be elev due to ongoing infection and may be normally low
   - pt can f/u on this as outpatient
   #. Hepatitis on imaging: most likely due to fluid resuscitation rather
   than hepatitis with LFTs nl.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-8-20**] 09:34 PM
   Prophylaxis:
   DVT: heparin SC, consider d/c if pt is ambulating
   Stress ulcer: not indicated
   Communication:
   Code status: Full code
   Disposition: Transfer to floor.